US04407806
To a 500 ml 3-neck flask round bottom flask equipped with an addition funnel, septum, thermometer and an argon inlet is added 100 ml of anhydrous diethyl ether and 62.5 ml of 1.6 molar butyllithium solution (in hexane). The system is cooled to -120° C. and 15.90 gm of 3-bromopyridine in 50 ml of tetrahydrofuran is added over 2 hours. After addition of the 3-bromopyridine, the system is stirred for an additional 45 minutes. At this time, 15.60 gm of 1-formylnaphthalene in 50 ml of tetrahydrofuran is added to the system while still maintaining a temperature of -120° C. The system is kept at -120° C. for an additional 3 hours after addition of the 1-formylnaphthalene and afterwards is allowed to come to room temperature. After 10 hours at room temperature, the system is quenched with saturated ammonium chloride (in water). The system is adjusted to pH 2 with HCl solution. The solution is extracted with diethyl ether. The aqueous solution is made basic with a 5% NaOH solution. The product is extracted with methylene chloride and dried over sodium sulfate. The methylene chloride is removed by stripping and the residue is triturated with hexane to give the 3-pyridyl-1-naphthylcarbinol.

reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | butyllithium | 1.6 molar, 62.5 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 15.90 gm | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-formylnaphthalene | 15.60 gm | C(=O)C1=CC=CC2=CC=CC=C12 | C11H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-pyridyl-1-naphthylcarbinol | N1=CC(=CC=C1)C(O)C1=CC=CC2=CC=CC=C12 | C16H13NO
